US05389293
Into a four-necked flask provided with a stirrer and a thermometer, 25.4 g of (-)-4-acetyl-4'-(2-hydroxypropyl)biphenyl (XXIII-43) [0.1 mol, [α]D20 =-11.2° (C=1, CHCl3)], 69.5 g (0.3 mol) of silver oxide and 255 g (1.5 mol) of propyl iodide were charged, and then stirred at room temperature for 15 days. Thereafter, the reaction mixture was diluted with 300 ml of chloroform, and silver salt was filtered off, and thereafter, the filtrate was concentrated under a reduced pressure. The resulting residue was subjected to a silica gel column chromatography (elution medium: toluene/ethyl acetate=10/1) to obtain 9.0 g of (-)-4-acetyl-4'-(2-propoxypropyl) biphenyl (XXII-43) [yield=30.5%, [α]D20 =-10.2° (C=1, CHCl3), m.p.=5320 -55° C.] and 17.4 g of the starting material (XXIII-43) with recovery of 68.5%.

reactant | (-)-4-acetyl-4'-(2-hydroxypropyl)biphenyl | 25.4 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CC(C)O | C17H18O2
reactant | propyl iodide | 1.5 mol, 255 g | C(CC)I | C3H7I
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | silver | [Ag] | Ag
catalyst | silver oxide | 0.3 mol, 69.5 g | [Ag]=O
product | (-)-4-acetyl-4'-(2-propoxypropyl) biphenyl | 9.0 g, yield=30.5% | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CC(C)OCCC | C20H24O2
